US06844088B2
Preparation of 2-bromo-5,3′-dimethoxybiphenyl
3,3′-dimethoxybiphenyl (5.0 g, 23.34 mmol) was dissolved in a dimethylformamide solvent and cooled to 0° C. N-bromosuccinimide (4.15 g, 23.34 mmol) was dissolved in a dimethylformamide solvent (63 ml) and added slowly to a solution of 3,3′-dimethoxybiphenyl for about 1.5 hours. The mixture was stirred at room temperature for about 12 hours and distilled water was added thereto, followed by stirring for about 10 minutes. The resultant was filtered three times with hexane and the filtrate was washed three times with distilled water and dried over sodium sulfate. Hexane was removed under reduced pressure to obtain a desired product (Yield: 6.70 g, 98%). The obtained product was identified as 2-bromo-5,3′-dimethoxybiphenyl through the nuclear magnetic resonance (NMR) spectrum, corresponding to the compound I of the reaction scheme 2.

reactant | 3,3′-dimethoxybiphenyl | 23.34 mmol, 5.0 g | COC=1C=C(C=CC1)C1=CC(=CC=C1)OC | C14H14O2
reactant | N-bromosuccinimide | 23.34 mmol, 4.15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 63 ml | CN(C=O)C | C3H7NO
product | 2-bromo-5,3′-dimethoxybiphenyl | Yield: 6.70 g, 98% | BrC1=C(C=C(C=C1)OC)C1=CC(=CC=C1)OC | C14H13BrO2
